US07393868B2
Propane-2-sulfonic acid [2-(5′-amino-2′-cyano-biphenyl-4-yl)-thiophen-3-yl]-amide
Prepare propane-2-sulfonic acid [2-(2′-cyano-5′-nitro-biphenyl-4-yl)-thiophen-3-yl]-amide in a manner analogous to the procedure set forth in Preparation 4. Add SnCl2.2 H2O (642 mg, 3.40 mmol) into a solution of propane-2-sulfonic acid [2-(2′-cyano-5′-nitro-biphenyl-4-yl)-thiophen-3-yl]-amide (279 mg, 0.654 mmol) in ethanol (6.54 mL). Heat the mixture at 90° C. for 3 h. Cool to room temperature. Concentrate to remove the solvent in vacuo. Dilute with dichloromethane, and add aqueous sodium bicarbonate solution to adjust pH to 8. Extract with with dichloromethane (3×100 mL) and dry the combined organic layers and concentrate to give a slightly colored solid. Purification by flash chromatography (Silica gel-Hexane/EtOAc 2:1) furnishes 212 mg, 0.534 mmol (82%) of title compound as a pale yellow solid. MS (m/e): 396.1 (M−1).

reactant | propane-2-sulfonic acid [2-(2′-cyano-5′-nitro-biphenyl-4-yl)-thiophen-3-yl]-amide | C(#N)C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C20H17N3O4S2
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 3.40 mmol, 642 mg | O | H2O
reactant | propane-2-sulfonic acid [2-(2′-cyano-5′-nitro-biphenyl-4-yl)-thiophen-3-yl]-amide | 0.654 mmol, 279 mg | C(#N)C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C20H17N3O4S2
solvent | ethanol | 6.54 mL | C(C)O | C2H6O
product | Propane-2-sulfonic acid [2-(5′-amino-2′-cyano-biphenyl-4-yl)-thiophen-3-yl]-amide | 0.534 mmol, 212 mg, 82% | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)C#N | C20H19N3O2S2
